US04943591
N-(4-Iodophenyl)-N-methylmethanesulphonamide
A mixture of N-(4-iodophenyl)methanesulphonamide (4.3 g), 50% aqueous sodium hydroxide (25 ml), iodomethane (5 ml), dichloromethane (10 ml) and tetrabutylammonium bisulphate (0.5 g) was stirred vigorously for 2 h. Water (50 ml) was added and the mixture was extracted with ether (3×50 ml). The organic extracts were washed with water and brine, dried and concentrated to a solid which was triturated with hexane to give the title compound as white crystals (4.1 g) m.p. 106°-107°.

reactant | N-(4-iodophenyl)methanesulphonamide | 4.3 g | IC1=CC=C(C=C1)NS(=O)(=O)C | C7H8INO2S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | iodomethane | 5 ml | IC | CH3I
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bisulphate | 0.5 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 50 ml | O | H2O
product | N-(4-Iodophenyl)-N-methylmethanesulphonamide | 4.1 g | IC1=CC=C(C=C1)N(S(=O)(=O)C)C | C8H10INO2S
